US07589232B2
Step a) Formation of N-{4-[(4-chlorophenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)isoxazole-5-carboxamide
The titled compound was prepared following the procedure E using 6-({4-[(4-chlorophenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one and isoxazole-5-carbonyl chloride as a yellow oil (72%). M− (ESI): 511.5; M+ (ESI): 513.1. HPLC, Rt: 5.38 min (Purity: 99.1%).

reactant | 6-({4-[(4-chlorophenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one | ClC1=CC=C(C=C1)C#CC1=CC=C(CNC2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C25H20ClNO3
reactant | isoxazole-5-carbonyl chloride | O1N=CC=C1C(=O)Cl | C4H2ClNO2
product | N-{4-[(4-chlorophenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)isoxazole-5-carboxamide | ClC1=CC=C(C=C1)C#CC1=CC=C(CN(C(=O)C2=CC=NO2)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C29H21ClN2O5
